US06995269B2
Preparation of 6-fluoro-3,4-dihydro-1H-naphthalen-2-one
4-fluorophenylacetic acid (1 equivalent) was dissolved in dichloroethane (1.3 M) containing SOCl2 (3 equivalents), the mixture was refluxed for 90 minutes and the solvent was removed. Solution of this crude product in CH2Cl2 was added dropwise within 60 minutes to AlCl3 (2 eq) in CH2Cl2 (0.4 M) while stirring at 0° C. Thereafter, ethylene was introduced at 0° C. over 45 minutes, whereupon the mixture was stirred further at room temperature for 1 hour, and thereafter was treated at 0° C. with ice-water. The organic phase was washed with 1 N HCl (2×), NaHCO3 (sat. sol.), dried and evaporated. The residue was triturated with hexane, yielding the product as a bright yellow solid.

reactant | 4-fluorophenylacetic acid | 1 equivalent | FC1=CC=C(C=C1)CC(=O)O | C8H7FO2
reactant | SOCl2 | 3 equivalents | O=S(Cl)Cl | Cl2OS
reactant | AlCl3 | 2 eq | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | ethylene | C=C | C2H4
solvent | dichloroethane | 1.3 M | ClC(C)Cl | C2H4Cl2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 0.4 M | C(Cl)Cl | CH2Cl2
product | 6-fluoro-3,4-dihydro-1H-naphthalen-2-one | FC=1C=C2CCC(CC2=CC1)=O | C10H9FO
